US07307175B2
Preparation of 7-chloro-3-methyl-3H-isobenzofuran-1-one
5.00 g (0.027 mol) of 2-chloro-6-ethylbenzoic acid in 120 ml of chlorobenzene are introduced into a reaction vessel and heated to 90° C. 0.1 g of α,α′-azoisobutyronitrile is then added, followed by 5.04 g (0.03154 mol) of bromine in 25 ml of chlorobenzene, which is metered in in the course of 10 minutes. The reaction mixture is then stirred for 1 hour at 90° C. to complete the reaction. After the reaction mixture has cooled to 20° C., it is washed with 50 ml of sodium thiosulfate solution (0.1 mol), the organic phase is dried over sodium sulfate and the solvent evaporated off under reduced pressure using a rotary evaporator. The desired target compound is obtained in a yield of 6.1 g and a purity of about 74% (corresponding to 90% of theory).

reactant | 2-chloro-6-ethylbenzoic acid | 0.027 mol, 5.00 g | ClC1=C(C(=O)O)C(=CC=C1)CC | C9H9ClO2
reactant | bromine | 0.03154 mol, 5.04 g | BrBr | Br2
reactant | sodium thiosulfate | 0.1 mol, 50 ml | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chlorobenzene | 120 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 25 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 7-chloro-3-methyl-3H-isobenzofuran-1-one | ClC=1C=CC=C2C(OC(C12)=O)C | C9H7ClO2
